US04999355
3-(4-Phenyl-1,2,3,6-tetrahydro-1-pyridyl)-1-bromopropane may be prepared in the following manner: 2.7 cc of phosphorus tribromide is added to a vigorously agitated solution of 3-(4-phenyl-1,2,3,6-tetrahydro-1-pyridyl)-1-propanol (8.7 g) in toluene (100 cc) in the course of 5 minutes and at a temperature close to 20° C. The suspension is heated to a temperature close to 111° C. for 2 hours. After cooling to a temperature close to 20° C., the suspension is filtered, the precipitate obtained is dissolved in methylene chloride (250 cc). The organic phase is washed with distilled water (150 cc), dried over anhydrous magnesium sulphate then concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa). 14 g of 3-(4-phenyl--1,2,3,6-tetrahydro-1-pyridyl)1-bromopropane hydrobromide are obtained, melting at 185° C.

reactant | 3-(4-Phenyl-1,2,3,6-tetrahydro-1-pyridyl)-1-bromopropane | C1(=CC=CC=C1)C=1CCN(CC1)CCCBr | C14H18BrN
reactant | phosphorus tribromide | 2.7 cc | P(Br)(Br)Br | Br3P
reactant | 3-(4-phenyl-1,2,3,6-tetrahydro-1-pyridyl)-1-propanol | 8.7 g | C1(=CC=CC=C1)C=1CCN(CC1)CCCO | C14H19NO
solvent | toluene | 100 cc | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 250 cc | C(Cl)Cl | CH2Cl2
product | 3-(4-phenyl--1,2,3,6-tetrahydro-1-pyridyl)1-bromopropane hydrobromide | 14 g | Br.C1(=CC=CC=C1)C=1CCN(CC1)CCCBr | InChI=1S/C14H18BrN.BrH/c15-9-4-10-16-11-7-14(8-12-16)13-5-2-1-3-6-13;/h1-3,5-7H,4,8-12H2;1H
